US07781426B2
Ethyl (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethoxy)phenyl](ethyl)amino]carbonyl}cyclohexyl)acetate (100 mg; 0.138 mmol) was treated with 4 M KOH (1 mL) as in EXAMPLE 87 to afford (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethoxy)phenyl](ethyl)amino]carbonyl}cyclohexyl)acetic acid as a white solid. LCMS=699.0 (M+1)+. 1H NMR (CDCl3, 500 MHz, mixture of atropisomers): δ 7.92 (s, 1 H), 7.80 (s, 1 H), 7.75 (s, 1H), 7.29-7.22 (m, 1 H), 7.19-7.17 (m, 1 H), 7.15-7.11 (m, 1 H), 5.67 (d, J=8.3 Hz, 1 H), 4.93 (d, J=14.9 Hz, 1 H), 4.25-4.10 (m, 2 H), 3.91 (d, J=14.9 Hz, 1 H), 3.54-3.46 (m, 1 H), 3.09-3.01 (m, 1 H), 2.68-2.61 (m, 1 H), 2.27-2.24 (m, 1 H), 2.15-2.11 (m, 1 H), 1.96-1.51 (m, 6 H), 1.26-1.21 (m, 1 H), 1.17-1.12 (m, 3 H), 0.83-0.67 (m, 4 H).

reactant | Ethyl (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethoxy)phenyl](ethyl)amino]carbonyl}cyclohexyl)acetate | 0.138 mmol, 100 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)OC(F)(F)F)N(C(=O)[C@@H]1CC[C@H](CC1)CC(=O)OCC)CC)C)(F)F | C33H35F9N2O6
reactant | KOH | 4 M, 1 mL | [OH-].[K+]
product | (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethoxy)phenyl](ethyl)amino]carbonyl}cyclohexyl)acetic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)OC(F)(F)F)N(C(=O)[C@@H]1CC[C@H](CC1)CC(=O)O)CC)C)(F)F | C31H31F9N2O6
